US07425631B2
Step E. Preparation of N-[6-(2-Cyano-vinyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-3-(3,4-dichloro-benzenesulfonylamino)-3-(4-fluoro-phenyl)-propionamide
To a solution of 3-(5-amino-5,6,7,8-tetrahydro-naphthalen-2-yl)-acrylonitrile (100 mg, 0.504 mmol) in CH2Cl2 (10 mL) was added 3-(3,4-dichlorobenzene-sulfonylamino)-3-(4-fluoro-phenyl)-propionic acid (210 mg, 0.554 mmol), HATU (96 mg, 0.252 mmol), EDC (106 mg, 0.55 mmol), and DIEA (0.17 mL, 1.008 mmol). The resulting mixture was stirred at RT for 18 h. Solvent was evaporated in vacuo. The residue was purified by chromatography on silica gel. Elution with Hex:Acetone mixture (75:25) gave final compound. MS m/z: 573.12 (M+H). Calc'd. for C28H24Cl2FN3O3S-572.48.

reactant | 3-(5-amino-5,6,7,8-tetrahydro-naphthalen-2-yl)-acrylonitrile | 0.504 mmol, 100 mg | NC1C=2C=CC(=CC2CCC1)C=CC#N | C13H14N2
reactant | 3-(3,4-dichlorobenzene-sulfonylamino)-3-(4-fluoro-phenyl)-propionic acid | 0.554 mmol, 210 mg | ClC=1C=C(C=CC1Cl)S(=O)(=O)NC(CC(=O)O)C1=CC=C(C=C1)F | C15H12Cl2FNO4S
reactant | HATU | 0.252 mmol, 96 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | EDC | 0.55 mmol, 106 mg
reactant | DIEA | 1.008 mmol, 0.17 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-[6-(2-Cyano-vinyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-3-(3,4-dichloro-benzenesulfonylamino)-3-(4-fluoro-phenyl)-propionamide | C(#N)C=CC=1C=C2CCCC(C2=CC1)NC(CC(C1=CC=C(C=C1)F)NS(=O)(=O)C1=CC(=C(C=C1)Cl)Cl)=O | C28H24Cl2FN3O3S
